US07612067B2
Preparation of 3-(5-butyl-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
Using a procedure similar to Example 25 from 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.40 g, 0.1.02 mmol), 1.34 M n-Bu-Li (1.60 mL, 2.14 mmol), 0.5 M ZnCl2 (4.3 mL, 2.14 mmol) and PdCl2(dppf) (0.037 g, 0.051 mmol) furnishes the title compound (0.25 g, 0.69 mmol, 68%). 1H NMR (CDCl3), δ 0.88 (t, J=7.5 Hz, 6H), 0.97 (t, J=7.5 Hz, 3H), 1.40-1.51 (m, 2H), 1.67-1.92 (m, 6H), 2.07 (s, 3H), 2.46 (s, 3H), 2.51 (s, 3H), 2.83 (t, J=8.0 Hz, 2H), 3.30-3.38 (m, 1H), 6.64 (s, 1H), 6.70 (s, 1H) LC/MS (m/z): calcd. for C22H31N3S (M+H)+: 370.3; found: 370.2.

reactant | 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.40 g | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H22BrN3S
reactant | n-Bu-Li | 2.14 mmol, 1.34 M, 1.60 mL | C(CCC)[Li]
catalyst | ZnCl2 | 2.14 mmol, 0.5 M, 4.3 mL | [Cl-].[Cl-].[Zn+2]
catalyst | PdCl2(dppf) | 0.051 mmol, 0.037 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(5-butyl-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.69 mmol, 0.25 g, 68% | C(CCC)C1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C22H31N3S
